Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
___ recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___ Coronary Artery Bypass Graft x 4 (Left internal mammary 
artery to left anterior descending, Saphenous vein graft to 
Diagonal, Saphenous vein graft to Ramus, Saphenous vein graft to 
Obtuse Marginal)
___ Cardiac cath
 
History of Present Illness:
Ms. ___ is a ___ female with multiple coronary artery 
disease risk factors and previous strokes with dementia who 
presented with acute onset chest pain. ED initially was not 
concerned as ___ had negative MIBI ___ and was originally 
going to be ruled out and scheduled for a stress ___. However 
her troponin returned elevated at 0.21 so ___ was started on 
a heparin drip, got Aspirin 325mg, and was transferred to the 
floor without plavix load.
 
Past Medical History:
Stroke w/ residual left sided weakness, Hypertension, 
Hyperlipidemia, Diabetes Mellitus, Dementia, Gastroesophageal 
Reflux Disease, Recurrent urinary tract infections, Iron 
defiency anemia, Recurrent falls, s/p Hysterectomy
 
Social History:
___
Family History:
father had afib and CVA in ___.
Two cousins with colon cancer.

 
Physical Exam:
Admission
VS - 97.0 162/77 86 18 100% on RA  
Gen: elderly F in NAD.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with JVP of 3 cm at 45' angle.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  
Chest: slight crackles at the bases.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: wwp, no edema. slight brawny stasis dermatitis.

Discharge
VS T 97.4  HR 72SR  BP 130/75  RR 18  O2sat 96%-RA
Gen NAD
Neuro A&Ox3, residual left sided weakness. Able to ambulate with 
walker.
Pulm CTA-bilat
CV RRR, no M/R/G. Sternum stable, incision CDI
Abdm soft, NT/+BS
Ext warm well perfused. 1+ pedal edema bilat. Small rt arm 
phlebitis- improving over last few days
 
Pertinent Results:
___ 09:30PM   CK(CPK)-78
___ 09:30PM   ___ PTT-32.8 ___
___ 01:00PM   GLUCOSE-135* UREA N-19 CREAT-0.9 SODIUM-138 
POTASSIUM-4.6 CHLORIDE-102 TOTAL CO2-26 ANION GAP-15
___ 01:00PM   cTropnT-0.21*
___ 01:00PM   WBC-9.9 RBC-3.98* HGB-11.8* HCT-34.6* MCV-87 
MCH-29.7 MCHC-34.2 RDW-13.6
___ 01:00PM   PLT COUNT-336
___ 01:00PM   ___ PTT-22.2 ___
___ 05:06AM BLOOD WBC-11.5* RBC-3.48* Hgb-10.8* Hct-31.1* 
MCV-89 MCH-31.1 MCHC-34.8 RDW-15.0 Plt ___
___ 05:06AM BLOOD Plt ___
___ 12:08PM BLOOD ___ PTT-28.6 ___
___ 05:06AM BLOOD Glucose-141* UreaN-25* Creat-1.3* Na-137 
K-4.4 Cl-100 HCO3-28 AnGap-13
___ 10:10AM BLOOD %HbA1c-7.2*

___ Cardiac Cath: 1- Selective coronary anguiography of 
this left-dominant system demonstrated severe diffuse three 
vessel coronary artery disease with markedly calcific vessels. 
The distal LMCA/ostial LCX had 80% stenosis and the mid and 
distal LCX had each 70% stenosis serially. The LAD had 70% 
diffuse bifurcation stenosis at mid vessel with 60% stenosis in 
the ostial major diagonal brancg. There was a small high 
diagonal vessel(RI) with 30% stenosis. The RCA was a diminutive 
vessel with 40% diffuse stenosis throughout. 2- Limited resting 
hemodynamic assessment revealed normal systemic arterial 
pressure (121/60 mmHg). The left-sided filling pressures were 
normal at baseline (LVEDP 11 mmHg, increased to 16 mmHg after LV 
gram). 3- Left ventriculography revealed normal LVEF (60-65%) 
without regional wall motion abnormalities or mitral 
regurgitation. 
___ Carotid U/S: Less than 40% stenosis of the internal 
carotid arteries bilaterally.
___ Head CT:1. No significant interval change from prior MR 
examination from ___ with no acute infarction or hemorrhage 
identified. 2. Multiple old lacunar infarctions of the bilateral 
cerebellar hemispheres and pons, and changes consistent with 
chronic small vessel ischemic disease.

___ ECHOCARDIOGRAPHY REPORT
___       ___ MRN:   ___       TEE (Complete) 
Done ___ at 10:02:05 AM      FINAL  
Referring Physician     ___  
___.
___  Status: Inpatient DOB: ___ 
Age (years): ___ F  Hgt (in):  
BP (mm Hg): 108/65  Wgt (lb):  
HR (bpm): 75  BSA (m2):  
Indication: intraoperative management of CABG.  
ICD-9 Codes: 440.0, 424.1, 424.0 
___ Information  
Date/Time: ___ at 10:02    ___ MD: ___, 
MD 
___ Type: TEE (Complete) Sonographer: ___, MD 
Doppler: Full Doppler and color Doppler ___ Location: 
Anesthesia West OR cardiac 
Contrast: None Tech Quality: Adequate 
Tape #: ___-: Machine: 2 
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Atrium - Long Axis Dimension:  *5.2 cm  <= 4.0 cm  
Left Atrium - Four Chamber Length:  5.0 cm  <= 5.2 cm  
Left Ventricle - Septal Wall Thickness:  *1.2 cm  0.6 - 1.1 cm  
Left Ventricle - Diastolic Dimension:  3.7 cm  <= 5.6 cm  
Left Ventricle - Systolic Dimension:  2.8 cm     
Left Ventricle - Fractional Shortening:  *0.24  >= 0.29  
Left Ventricle - Ejection Fraction:  60%  >= 55%  
Aorta - Sinus Level:  3.2 cm  <= 3.6 cm  
Aorta - Sinotubular Ridge:  2.5 cm  <= 3.0 cm  
Aorta - Ascending:  3.0 cm  <= 3.4 cm  
Aorta - Arch:  2.5 cm  <= 3.0 cm  
Aorta - Descending Thoracic:  2.4 cm  <= 2.5 cm  
Aortic Valve - LVOT diam:  1.8 cm     
Aortic Valve - Valve Area:  *1.4 cm2  >= 3.0 cm2  
Aortic Valve - Pressure Half Time:  738 ms     
Mitral Valve - Pressure Half Time:  77 ms     
Mitral Valve - MVA (P ___ T):  2.8 cm2     
Mitral Valve - E Wave:  1.0 m/sec     
Mitral Valve - A Wave:  0.9 m/sec     
Mitral Valve - E/A ratio:  1.11      
Findings  
LEFT ATRIUM: Moderate ___. Elongated ___. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. Normal 
interatrial septum. No ASD by 2D or color Doppler. 
LEFT VENTRICLE: Mild symmetric LVH. Normal LV cavity size. 
Overall normal LVEF (>55%). 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Normal diameter of aorta at the sinus, ascending and arch 
levels. Complex (>4mm) atheroma in the aortic arch. Normal 
descending aorta diameter. Complex (>4mm) atheroma in the 
descending thoracic aorta. 
AORTIC VALVE: Normal aortic valve leaflets (3). No AS. No AS. 
Mild (1+) AR. 
MITRAL VALVE: Mildly thickened mitral valve leaflets. No MVP. 
Mild mitral annular calcification. No MS. ___ (1+) MR. 
___ VALVE: Normal tricuspid valve leaflets. Physiologic 
TR. 
PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflets. 
Physiologic (normal) PR. 
PERICARDIUM: No pericardial effusion. 
GENERAL COMMENTS: A TEE was performed in the location listed 
above. I certify I was present in compliance with ___ 
regulations. The ___ was under general anesthesia throughout 
the procedure. No TEE related complications. Results were 
personally reviewed with the MD caring for the ___.  
Conclusions  
PREBYPASS
1. The left atrium is moderately dilated. The left atrium is 
elongated. No atrial septal defect or PFO is seen by 2D or color 
Doppler. 
2. There is mild symmetric left ventricular hypertrophy. The 
left ventricular cavity size is normal. Overall left ventricular 
systolic function is normal (LVEF>55%). 
3. Right ventricular chamber size and free wall motion are 
normal. 
4. There are complex (>4mm) atheroma in the aortic arch. There 
are complex (>4mm) atheroma in the descending thoracic aorta. 
5. The aortic valve leaflets (3) appear structurally normal with 
good leaflet excursion and no aortic stenosis. There is no 
aortic valve stenosis. Mild (1+) aortic regurgitation is seen. 
6. The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen.
7. There is no pericardial effusion. 
8. ___ was notified in person of the results in the OR at 
the time of surgery
POSTBYPASS
1. ___ is on XX infusions.   
I certify that I was present for this procedure in compliance 
with ___ regulations.
Electronically signed by ___, MD, Interpreting 
physician ___ ___ 14:46  

 
Radiology Report CHEST (PA & LAT) Study Date of ___ 9:13 AM 

UNDERLYING MEDICAL CONDITION:    ___ year old woman with s/p cabg 
 
REASON FOR THIS EXAMINATION: 
EVALUATE EFFUSIONS  
Provisional Findings Impression: ___ WED ___ 10:50 AM 
Decrease in amount of pleural effusion. 
Final Report 
HISTORY: ___ female, status post CABG. Evaluate 
effusions. 
COMPARISON: Prior study, ___. 
FINDINGS: Status post sternotomy with surgical clips post-CABG. 
There is 
decreasing amount of pleural effusion seen on the lateral views. 
Right-sided PICC line is again seen with the tip in the SVC. 
Unchanged appearance of the cardiomegaly and bilateral bibasal 
atelectasis. 
The study and the report were reviewed by the staff radiologist. 

___. ___ 
___. ___ 
___: WED ___ 12:20 ___ 
 

 
Brief Hospital Course:
As mentioned in the HPI, Mrs. ___ was admitted from the 
emergency room after she was found to have a non-ST segment 
elevation myocardial infarction. She was appropriately medically 
managed and worked up for cardiac surgery. On ___ she was 
brought to the operating room where she underwent a coronary 
artery bypass graft x 4. The procedure was performed by Dr. 
___.  Please see operative report for surgical 
details. In summary she had CABG x4 with LIMA-LAD, SVG-Diag, 
SVG-Ramus, SVG-OM. She tolerated the operation well and 
following surgery she was transferred to the CVICU for invasive 
monitoring in stable condition. She remained intubated for three 
days after surgery secondary to a difficult airway and fluid 
overload.  She was weaned from her pressors and her chest tubes 
were removed.  She was fed via a dobhoff tube after surgery 
secondary to somnolence.  She was noted to be confused after the 
surgery, but also has a baseline history of dementia.  Her beta 
blockade was titrated up as tolerated.  On post-operative day 
seven she was transferred to the surgical step down floor.  She 
had intermitant episodes of atrial fibrillation with hypotension 
and was returned to the surgical intensive care unit, where she 
converted to sinus rhythm after adjustment of Bblockers and 
initiation of amiodarone.  Her mediastinal incision was noted to 
have some purulent drainage and she was started on Vancomycin 
and ciprofloxacin.  She was transferred back to the step down 
floor on post-operative day nine. Sternal drainage subsided and 
her sternum remained stable. As discussed with ___ 
was discontinued and upon discharge, Vancomycin will be 
continued for 7 days. She was seen by phyisical therapy. On  
post-operative day 15 she was discharged to rehabilitation at 
___. 

 
Medications on Admission:
Alendronate 70 mg PO qweekly, Imipramine 20 mg PO QHS, 
Lisinopril 10 mg PO qAM, Metoprolol XL 50 mg PO QHS, MVI (noon), 
Nitrofurantoin 100 mg PO 3x/week MOWFri, Prilosec 20 mg PO 
___, Simvastatin 20 mg PO ___ 81 mg PO daily, Calcium 
Carbonate 750 mg PO TID, Vitamin D3 800 PO ___, Ferrous 
Sulfate 325 mg PO ___, Aggrenox ___ mg PO BID, Simethicone 
80 mg PO QID, Glyburide 1.25 mg PO QAM, Metformin 500 mg PO QAM, 
Glucovance ___ PO BID before breakfast and supper)
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO every six (6) 
hours as needed.
Disp:*60 Tablet(s)* Refills:*0*
2. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
Disp:*30 Tablet, Chewable(s)* Refills:*0*
4. Dipyridamole-Aspirin 200-25 mg Cap, Multiphasic Release 12 hr 
Sig: One (1) Cap PO BID (2 times a day).
Disp:*60 Cap(s)* Refills:*0*
5. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TIDAC (3 times a day (before meals)).
Disp:*90 Tablet, Chewable(s)* Refills:*0*
6. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
7. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
8. Glyburide Micronized-Metformin ___ mg Tablet Sig: One (1) 
Tablet PO BID (2 times a day).
Disp:*60 Tablet(s)* Refills:*0*
9. Furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day for 
5 days.
Disp:*5 Tablet(s)* Refills:*0*
10. Potassium Chloride 20 mEq Tab Sust.Rel. Particle/Crystal 
Sig: One (1) Tab Sust.Rel. Particle/Crystal PO DAILY (Daily) for 
5 days.
Disp:*5 Tab Sust.Rel. Particle/Crystal(s)* Refills:*0*
11. Vancomycin 1,000 mg Recon Soln Sig: One (1)  Intravenous 
once a day for 7 days.  
12. Metoprolol Tartrate 50 mg Tablet Sig: Two (2) Tablet PO BID 
(2 times a day).  
13. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
14. Heparin (Porcine) 5,000 unit/mL Solution Sig: 5000 (5000) 
units Injection TID (3 times a day).  
15. Prilosec 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
16. Sodium Chloride 0.65 % Aerosol, Spray Sig: Two (2) Spray 
Nasal Q6H (every 6 hours).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease s/p Coronary Artery Bypass Graft x ___
Myocardial Infarction, Postop atrial fibrillation
PMH: Stroke w/residual left sided weakness, Hypertension, 
Hyperlipidemia, Diabetes Mellitus, Dementia, Gastroesophageal 
Reflux Disease, Recurrent urinary tract infections, Iron 
defiency anemia, Recurrent falls, s/p Hysterectomy

 
Discharge Condition:
Stable

 
Discharge Instructions:
Please shower daily , no baths or swimming 
Monitor wounds for infection - redness, drainage, or increased 
pain 
Report any fever greater than 100.5 
Report any weight gain of greater than 2 pounds in 24 hours or 5 
pounds in a week 
No creams, lotions, powders, or ointments to incisions 
No driving for one month and off al narcotics
No lifting more than 10 pounds for 10 weeks 
Please call with any questions or concerns: ___
 
Followup Instructions:
___